US04443631
To a mixture of 1.78 g (10 milliMoles) of N-bromosuccinimide in 20 ml of liquid sulfur dioxide at -30° C. is added 1.57 ml (10.0 mMoles) of isobutylbenzene. The mixture is stirred at -30° to -18° for 65 minutes, then worked up as above. Assay gives only 2% p-bromoisobutylbenzene and 88% recovered starting isobutylbenzene, indicating that the reaction with NBS is very slow at this temperature.

reactant | N-bromosuccinimide | 10 milliMoles, 1.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | isobutylbenzene | 10.0 mMoles, 1.57 ml | C(C(C)C)C1=CC=CC=C1 | C10H14
product | p-bromoisobutylbenzene | 2% | BrC1=CC=C(C=C1)CC(C)C | C10H13Br
